### PR TITLE
[Merged by Bors] - feat(ValuationSubring): eq_self_or_eq_top_of_le

### PR DESCRIPTION
**Pull request by xgenereux**
Using `primeSpectrumEquiv` we get the the corresponding results of `IsLocalRing.primeSpectrum_eq_of_KrullDimLEOne`(see #33607) for valuation subrings.

Co-authored-by: María Inés de Frutos Fernández <[mariaines.dff@gmail.com](mailto:mariaines.dff@gmail.com)>

---

- [x] depends on: #33631
- [x] depends on: #33612
- [x] depends on: #33609
- [x] depends on: #33607

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Valuation/ValuationSubring.lean [hunk 1]
```diff
@@ -363,6 +395,27 @@ instance linearOrderOverring : LinearOrder {S // A ≤ S} where
   max_def a b := congr_fun₂ sup_eq_maxDefault a b
   toDecidableLE := _
 
+section
+
+variable [Ring.KrullDimLE 1 A] {B : ValuationSubring K}
+
+variable {A} in
+theorem eq_self_or_eq_top_of_le (hle : A ≤ B) : A = B ∨ B = ⊤ := by
```
Comment (plp127) [inline Mathlib/RingTheory/Valuation/ValuationSubring.lean:411]: Is this a consequence of `PartialOrder` + `BoundedOrder` + `IsSimpleOrder` or is something more complicated going on here?

Comment (xgenereux) [reply Mathlib/RingTheory/Valuation/ValuationSubring.lean:411]: I think it could be deduced from these if we restated the results of this PR and the dependent PRs in these terms but I personally think it would be more effort than it is worth.

**Review by alreadydone — DISMISSED** [review]

File: Mathlib/RingTheory/Valuation/ValuationSubring.lean [hunk 2]
```diff
@@ -401,6 +403,27 @@ instance linearOrderOverring : LinearOrder {S // A ≤ S} where
...
+  obtain h | h := IsLocalRing.Ring.KrullDimLE.eq_bot_or_eq_top
+    ((primeSpectrumEquiv A).symm ⟨B, hle⟩) <;>
+    (replace h := congr((primeSpectrumEquiv A) $h); simp_all [← idealOfLE_self])
```
Comment (dagurtomas) [inline Mathlib/RingTheory/Valuation/ValuationSubring.lean]:
```suggestion
  obtain h | h := IsLocalRing.Ring.KrullDimLE.eq_bot_or_eq_top
    ((primeSpectrumEquiv A).symm ⟨B, hle⟩) 
  all_goals
    replace h := congrArg (primeSpectrumEquiv A) h
    simp_all
```
This is more readable

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate
